US06897208B2
2-(4-bromo-2H-pyrazol-3-yl)-5,6-dimethyl-1H-benzimidazole
Starting with 100 mg of commercial 4-bromo-2H-pyrazole-3-carboxaldehyde, 77.8 mg of 4,5-dimethyl-1,2-phenylenediamine, and 108.6 mg of sodium metabisulphite, in 1 ml of ethanol and 2 ml of dimethylformamide, and after purification by SPE (SCX phase, washing with methanol, extraction with 2N ammoniacal methanol) followed by a chromatography under pressure on silica, 143.2 mg of 2-(4-bromo-2H-pyrazol-3-yl)-5,6-dimethyl-1H-benzimidazole are obtained in the form of a yellow foam.

reactant | 4-bromo-2H-pyrazole-3-carboxaldehyde | 100 mg | BrC1=C(NN=C1)C=O | C4H3BrN2O
reactant | 4,5-dimethyl-1,2-phenylenediamine | 77.8 mg | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | sodium metabisulphite | 108.6 mg | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-(4-bromo-2H-pyrazol-3-yl)-5,6-dimethyl-1H-benzimidazole | BrC1=C(NN=C1)C1=NC2=C(N1)C=C(C(=C2)C)C | C12H11BrN4
